US08134001B2
In a manner similar to the method described in Example 50a, 5-chloro-2-fluoro-benzaldehyde (2 g, 12.8 mmol) (Beta Pharma) was reacted with 4-cyanophenol (1.67 g, 14 mmol) and K2CO3 in N,N-dimethylacetamide to give 4-(4-chloro-2-formyl-phenoxy)-benzonitrile as a light yellow solid (Yield 2.81 g, 85%).

reactant | 5-chloro-2-fluoro-benzaldehyde | 12.8 mmol, 2 g | ClC=1C=CC(=C(C=O)C1)F | C7H4ClFO
reactant | 4-cyanophenol | 14 mmol, 1.67 g | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 4-(4-chloro-2-formyl-phenoxy)-benzonitrile | Yield 2.81 g, 85% | ClC1=CC(=C(OC2=CC=C(C#N)C=C2)C=C1)C=O | C14H8ClNO2
